US06071903
Methyl 3-Hydroxy-2-{(4-methoxybenzenesulfonyl)-[2-(2,2,2-trifluoroacetylamino)benzyl]amino}propionate
To a solution of 0.50 g (1.27 mmol) of methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate in 5 ml of CH2Cl2 was added 1.8 ml (12.7 mmol) of trifluoroacetic anhydride. The solution was stirred for 1 hour and concentrated to dryness under vacuum. Methanol was added to the residue and the solvent was removed under vacuum. The addition of methanol and concentration to dryness was repeated twice. The residue was chromatographed on silica gel thick layer plates with hexane-ethyl acetate (1:1) to give 0.50 g of a colorless glass. Anal. for C20H21F3N2O7S: Calc'd: C,49.0; H,4.3; N,5.7; Found: C.49.0; H,4.5; N,5.4.

reactant | methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate | 1.27 mmol, 0.50 g | NC1=C(CN(C(C(=O)OC)CO)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C18H22N2O6S
reactant | trifluoroacetic anhydride | 12.7 mmol, 1.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-Hydroxy-2-{(4-methoxybenzenesulfonyl)-[2-(2,2,2-trifluoroacetylamino)benzyl]amino}propionate | 0.50 g | OCC(C(=O)OC)N(CC1=C(C=CC=C1)NC(C(F)(F)F)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C20H21F3N2O7S
